US07915281B2
4-Chloro-2-(ethoxymethyl)-1-[(3-phenyl-4,5-dihydroisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinoline (1.50 g, 3.56 mmol) was treated with a solution of 7 M ammonia in methanol (30 mL) at 140° C. for 15 hours according to the method described in Part F of Example 1. Chloroform was used in the work-up procedure instead of dichloromethane. The crude product was purified by flash chromatography (silica gel, elution with 97:3 dichloromethane/methanol) to afford 2-(ethoxymethyl)-1-[(3-phenyl-4,5-dihydroisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine (1.17 g) as a yellow solid. Recrystallization afforded white needles, mp 235-237° C.

reactant | 4-Chloro-2-(ethoxymethyl)-1-[(3-phenyl-4,5-dihydroisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinoline | 3.56 mmol, 1.50 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2CC(=NO2)C2=CC=CC=C2)COCC | C23H21ClN4O2
reactant | ammonia | 7 M | N | H3N
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 30 mL | CO | CH4O
product | 2-(ethoxymethyl)-1-[(3-phenyl-4,5-dihydroisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.17 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1CC(=NO1)C1=CC=CC=C1 | C23H23N5O2
